US04058539
A solution of 2 g. of 19-hydroxy-17β-pivaloxyandrosta-4,7-dien-3-one in 2000 ml. of carbon tetrachloride was left to stand with 1.5 g. of meta-chloroperbenzoic acid for two and a half days, whereupon an additional 0.5 g. of meta-chloroperbenzoic acid was added. After five days the solution was repeatedly extracted with 2% aqueous potassium hydroxide until the extracts were alkaline. The solution was then extracted with water and evaporated. The residue obtained was treated with 9 ml. of 0.2 N methanolic potassium hydroxide for 30 minutes. Then 9 ml. of 0.2 N acetic acid in ethyl acetate was added and the mixture was concentrated at reduced pressure. Recrystallization of the residue combined with thick layer chromatography yielded 7-hydroxy-8,19-oxido-17β-pivaloxyandrost-4-en-3-one, mp. 211°-212° C. λ max 246 mμ, 8α,19-dihydroxy-17β-pivaloxyandrost-4,6-dien-3-one, mp 202°-203° C., λ max 280 mμ, as well as 8β,19-dihydroxy-17β-pivaloxyandrost-4,6-dien-3-one, mp. 218°-220° C., λ max 282 mμ. The structure of these compounds was confirmed by ir and nmr spectroscopy.

reactant | 19-hydroxy-17β-pivaloxyandrosta-4,7-dien-3-one | OC[C@]12CCC(C=C1CC=C1[C@@H]3CC[C@@H]([C@@]3(C)CC[C@H]21)OC(C(C)(C)C)=O)=O | C24H34O4
reactant | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | meta-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | potassium hydroxide | 0.2 N | [OH-].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 0.2 N | C(C)(=O)O | C2H4O2
product | 8α,19-dihydroxy-17β-pivaloxyandrost-4,6-dien-3-one | O[C@]12[C@@H]3CC[C@@H]([C@@]3(C)CC[C@@H]2[C@]2(CCC(C=C2C=C1)=O)CO)OC(C(C)(C)C)=O | C24H34O5
